US07572820B2
4-Chloro-2-formyl-1-(2,2,2-trifluoroethyl)-1H-indole-5-carbonitrile
To a solution of 4-chloro-2-(hydroxymethyl)-1-(2,2,2-trifluoroethyl)-1H-indole-5-carbonitrile (0.07 g, 0.24 mmol) in MeCN (3 mL) was added activated MnO2 (0.21 g, 2.42 mmol). The mixture was stirred at rt for 2 h. Additional MnO2 (0.11 g, 1.21 mmol) was added and stirred for 1 h. The solids were filtered off and washed with EtOAc, CH2Cl2 and MeOH. The filtrate was concentrated in vacuo and the residue was purified by radial chromatography (2-30% EtOAc-hexanes gradient) to afford the title compound (0.046 g, 67% yield): MS (ES) m/z 285 (M−1).

reactant | 4-chloro-2-(hydroxymethyl)-1-(2,2,2-trifluoroethyl)-1H-indole-5-carbonitrile | 0.24 mmol, 0.07 g | ClC1=C2C=C(N(C2=CC=C1C#N)CC(F)(F)F)CO | C12H8ClF3N2O
solvent | MeCN | 3 mL | CC#N | C2H3N
catalyst | MnO2 | 2.42 mmol, 0.21 g | O=[Mn]=O
catalyst | MnO2 | 1.21 mmol, 0.11 g | O=[Mn]=O
product | 4-Chloro-2-formyl-1-(2,2,2-trifluoroethyl)-1H-indole-5-carbonitrile | 0.046 g, 67% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC(F)(F)F)C=O | C12H6ClF3N2O
